US08614234B2
To a stirred solution of methyl 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylate (1.38 g, 3.00 mmol) in a mixture of solvents THF/MeOH (20 ml/20 ml) was added 2 ml of 5M NaOH (10 mmol) solution. The mixture was heated in a 72° C. bath for 5 hours, cooled to room temperature and poured into 200 ml of water. 2M HCl was added until pH=3. The resulting precipitates were filtered, washed with water, and dried in vacuo to give 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylic acid as light brown solid. Yield: 1.28 g, 96%.

reactant | methyl 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylate | 3.00 mmol, 1.38 g | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)OC)C=C1 | C25H21FN4O4
reactant | THF MeOH | 20 ml | C1CCOC1.CO
reactant | NaOH | 10 mmol, 5M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 5-{4-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]pyridin-2-yl}-1H-pyrrole-3-carboxylic acid | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)O)C=C1 | C24H19FN4O4
